US07365065B2
Lithium hydroxide monohydrate (420 mg, 10 mmol) and water (15 ml) were added to a solution of tert-butyl N-methyl-N-(3-(methyloxycarbonyl)benzyl)carbamate (1.6 g, 5.6 mmol) in dioxan (20 ml) and the mixture was stirred for 2 h. The dioxan was removed in vacuo and the residue was taken up in 0.3N potassium hydrogen sulphate. The mixture was extracted with ethyl acetate and the organic phase was washed with water and brine, dried and reduced to afford tert-butyl N-(3-carboxybenzyl)-N-methylcarbamate (1.4 g, 95%).

reactant | Lithium hydroxide monohydrate | 10 mmol, 420 mg | O.[OH-].[Li+]
reactant | water | 15 ml | O | H2O
reactant | tert-butyl N-methyl-N-(3-(methyloxycarbonyl)benzyl)carbamate | 5.6 mmol, 1.6 g | CN(C(OC(C)(C)C)=O)CC1=CC(=CC=C1)C(=O)OC | C15H21NO4
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | tert-butyl N-(3-carboxybenzyl)-N-methylcarbamate | 1.4 g, 95% | C(=O)(O)C=1C=C(CN(C(OC(C)(C)C)=O)C)C=CC1 | C14H19NO4
